US06855708B2
N-(3,5-Dichlorobenzenesulfonyl)-octahydroisoindole-1-carboxylic acid (1 gm, 2.64 mmol) was dissolved in CH2Cl2 (5 mL) containing DMF (1 drop) and SOCl2 (770 μL, 10.56 mmol). The reaction mixture was refluxed under nitrogen for ˜1 hr. The reaction mixture was monitored by TLC for the formation of the acid chloride. The reaction mixture was then concentrated in vacuo and azeotroped with toluene (1×5 mL) to afford N-(3,5-dichlorobenzenesulfonyl)-octahydroisoindole-1-carboxylic acid chloride which was used without further purification in the subsequent step.

reactant | N-(3,5-Dichlorobenzenesulfonyl)-octahydroisoindole-1-carboxylic acid | 2.64 mmol, 1 gm | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1C(C2CCCCC2C1)C(=O)O | C15H17Cl2NO4S
reactant | SOCl2 | 10.56 mmol, 770 μL | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | N-(3,5-dichlorobenzenesulfonyl)-octahydroisoindole-1-carboxylic acid chloride | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1C(C2CCCCC2C1)C(=O)Cl | C15H16Cl3NO3S
